Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p cardiac arrest, intracerebral hemorrage
 
Major Surgical or Invasive Procedure:
Terminal extubation ___
 
History of Present Illness:
___ yr old female PMH include afib on Coumadin was found down by 
family at noon in bed, but breathing. Family returned 3 hrs 
later and still found patient down but cyanotic. EMS was called 
and patient  presented to ___ s/p cardiac 
arrest; per medical record from ___ after 2 
rounds. Patient was started on Levophed and Dopamine gtt and 
transferred for neurosurgical care for management of large right 
IPH with IVH extension. Patient received Kcentra, Vitamin K and 
Mannitol 50grams prior to transfer. 

She was intubated in ED. Post arrest team evaluated patient

on CT she was noted to have found large ICH with uncal 
herniation. 12mm R-->L shift. GCS 3.

Family met with ED attending who agreed to DNR. NSGY felt no 
intervention was warranted given prognosis, and recommended 
admission to ICU for brain death evaluation. 

On arrival to MICU patient was non responsive and intubated. She 
had no brain stem reflexes. 

Held family meeting with family and indicated unlikelihood of 
neurological recovery with family. Family reported that patient 
would "never want to be kept" on a ventilator, and given extreme 
unlikelihood of reversal of patient's current status elected for 
terminal extubation with chaplain present. 

 
Past Medical History:
ATRIAL TACHYCARDIA  
 HYPERLIPIDEMIA  
 SOLITARY PULMONARY NODULE  
 GERD  
 TEMPORAL LOBE EPILEPSY  
 MIGRAINE HEADACHES  
 HYPOTHYROIDISM  
 DEPRESSION  
 FIBROMYALGIA  
 OSTEOPENIA  
 SENSORINEURAL HEARING LOSS  
 COLONIC ADENOMA  
 MITRAL VALVE PROLAPSE  
 VENOUS INSUFFICIENCY  
 LACTOSE INTOLERANCE  
 GENITAL HERPES  
 SPINAL STENOSIS  
 INSOMNIA  
 H/O GASTRIC ULCER  
 H/O BASAL CELL CARCINOMA  
 
Social History:
___
Family History:
deferred
 
Physical Exam:
ON ADMISSION

Vitals: HR 121, BP 132/82, Temp 35 
___: intubated, non sedated  
HEENT: Mydratic pupils non reactive 
NECK: supple, JVP not elevated
LUNGS: Clear to auscultation bilaterally, distal heart sounds  
CV: RRR, S1 and S2 over anterior and posterior sounds   
ABD: soft, non tender 
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

ON DISCHARGE:

DECEASED
 
Pertinent Results:
ON ADMISSION
___ 10:19PM BLOOD WBC-34.1* RBC-6.00* Hgb-19.2* Hct-58.9* 
MCV-98 MCH-32.0 MCHC-32.6 RDW-13.6 RDWSD-49.5* Plt ___
___ 06:30PM BLOOD WBC-26.0* RBC-5.70* Hgb-18.0* Hct-55.8* 
MCV-98 MCH-31.6 MCHC-32.3 RDW-13.4 RDWSD-48.7* Plt ___
___ 10:19PM BLOOD ___ PTT-36.1 ___
___ 10:19PM BLOOD Glucose-224* UreaN-25* Creat-2.3* Na-137 
K-4.7 Cl-103 HCO3-13* AnGap-26*
___ 10:19PM BLOOD ALT-362* AST-498* LD(LDH)-1553* 
AlkPhos-149* TotBili-0.3
___ 10:19PM BLOOD Albumin-4.2 Calcium-8.3* Phos-6.7* Mg-2.0
___ 10:37PM BLOOD ___ pO2-49* pCO2-52* pH-7.06* 
calTCO2-16* Base XS--17
___ 06:51PM BLOOD ___ pO2-58* pCO2-49* pH-7.08* 
calTCO2-15* Base XS--15 Intubat-INTUBATED Vent-CONTROLLED
___ 06:51PM BLOOD Glucose-265* Lactate-6.7* Na-134 K-5.8* 
Cl-109*
___ 06:51PM BLOOD Hgb-19.7* calcHCT-59 O2 Sat-80 COHgb-0 
MetHgb-0

cxr ___

INDICATION:   ___ with post arrest, massive ICH with herniation  
// Tube and 
line placements 
  
TECHNIQUE:  Single portable view of the chest. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
Endotracheal tube tip is approximately 3.7 cm from the carina.  
Enteric tube 
tip is seen just above the diaphragm and should be advanced.  
The lungs are 
clear noting overlying external devices which obscure detailed 
evaluation 
particularly of the right lung apex.  The cardiomediastinal 
silhouette is 
within normal limits.  No displaced fractures identified. 
  
IMPRESSION:  
  
ET tube in appropriate position. 
Enteric tube tip at the GE junction and should be advanced. 
  

 
Brief Hospital Course:
___ yr old female PMH include afib on Coumadin found to have 
large IPH and IVF and herniation, arrived to ED with GCS score, 
highly unlikely to make neurological recovery. Family met with 
ICU team on arrival and decided for terminal extubation

# Terminal extubation due to s/p post cardiac arrest, 
significant intracerebral bleed with unlikelihood of recovery. 
Patient was kept on pressors until extended family arrived at 
ICU for family meeting. Given patient's severe catastrophic 
illness and extreme unlikelihood of any meaningful neurological 
recovery (___ saw patient and felt she was  "found to have no 
signs of brain functioning. There are no neurosurgical 
interventions to be offered. Recommend formal brain death 
testing"), patient was terminally extubated, and subsequently 
passed early AM ___. Family declined autopsy, medical examiner 
was notified who declined case. 

 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Lovastatin 20 mg oral DAILY 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Intracerebral hemorrhage
Cardiac Arrest
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___